US03969463
4-Chloro-5-methoxyquinaldine was reduced with platinum on carbon to give 5-methoxy-2-methyl-tetrahydroquinoline.

reactant | 4-Chloro-5-methoxyquinaldine | ClC1=CC(=NC2=CC=CC(=C12)OC)C | C11H10ClNO
catalyst | platinum on carbon | [Pt] | Pt
product | 5-methoxy-2-methyl-tetrahydroquinoline | COC1=C2CCC(NC2=CC=C1)C | C11H15NO
